US06150373
To a solution of 10 g (60 mmol) of 3-nitrophenylacetic acid in 120 ml of ethanol were added 20 ml of a saturated solution of hydrogen chloride in ethyl acetate and the mixture was heated at reflux for 4 hours, cooled and left to stand at room temperature for 18 hours. The mixture was evaporated and the residue was partitioned between 120 ml of diethyl ether and 100 ml of saturated aqueous sodium bicarbonate solution. The organic phase was dried over magnesium sulfate, filtered and evaporated to give 10.3 g (82%) of ethyl 3-nitrophenylacetate as a pale yellow oil. [NMR spectrum (250 MHz) δ1.25(t) (3H), δ3.68(s) (2H), δ4.6(q) (2H), δ6.5-δ6.7(m) (3H), δ7.09(dd) (1H)].

reactant | 3-nitrophenylacetic acid | 60 mmol, 10 g | [N+](=O)([O-])C=1C=C(C=CC1)CC(=O)O | C8H7NO4
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 120 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 3-nitrophenylacetate | 10.3 g, 82% | [N+](=O)([O-])C=1C=C(C=CC1)CC(=O)OCC | C10H11NO4
